US04736003
Preparation of Trimethylsilyl-3-chlorobenzoate
A 250 ml round bottom 3-neck flask equipped with a condensor, thermocouple, N2 inlet and polytetrafluoroethylene (PTFE) coated magnetic stir-bar was charged with 38.05 grams of 3-chlorobenzoic acid and 56.53 grams of hexamethyldisilazane. This mixture was heated to reflux and refluxed for 8 hours, until ammonia evolution ceased. Excess hexamethyldisilazane was stripped from the reaction mixture through a sidearm condensor at 50 mmHg until the temperature of the flask contents reached 125° C.

reactant | 3-chlorobenzoic acid | 38.05 grams | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | hexamethyldisilazane | 56.53 grams | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
product | Trimethylsilyl-3-chlorobenzoate | C[Si](C)(C)OC(C1=CC(=CC=C1)Cl)=O | C10H13ClO2Si
